US05223639
Into 15 ml of dimethylformamide were dissolved 1.51 g (0.011 mol) of anthranilic acid and 1.6 g of pyridine. To 10 ml of dimethylformamide were added in order 0.78 ml of thionyl chloride and 2.08 g (0.01 mol) of 3',4'-dimethoxycinnamic acid, during which the reaction system was stirred and cooled with ice and water. The resulting mixture was added dropwise to the above solution, during which the reaction system was stirred and cooled with ice and water. After the completion of the dropping, the reaction mixture was stirred for 30 minutes at the same temperature and then for 1 hour at room temperature. After the completion of the reaction, 80 ml of ice-water mixture was added thereto. The, air was introduced thereinto for 30 minutes, and crystals deposited were collected by filtration and recrystallized from chloroform to give 1.33 g (yield: 40.7%) of N-(3',4'-dimethoxycinnamoyl)-anthranilic acid.

reactant | anthranilic acid | 0.011 mol, 1.51 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | thionyl chloride | 0.78 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3',4'-dimethoxycinnamic acid | 0.01 mol, 2.08 g | COC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C11H12O4
solvent | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 1.6 g | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(3',4'-dimethoxycinnamoyl)-anthranilic acid | 1.33 g, yield: 40.7% | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1OC | C18H17NO5
